US07276527B2
2-(2-benzoylamino-4-pyridyl)-1-(3,5-dimethylphenyl)ethanone
Benzoyl chloride (7.5 g, 53 mmol) and 4-dimethylaminopyridine (1.0 g, 8.3 mmol) were added to a solution of 2-(2-amino-4-pyridyl)-1-(3,5-dimethylphenyl)ethanone (6.4 g, 27 mmol) in N,N-dimethylacetamide (100 mL) and the mixture was stirred at 70° C. for 12 hours. After the reaction mixture was cooled to room temperature, water (50 mL) was added. The mixture was extracted with ethyl acetate. The organic layer was washed with a saturated aqueous solution of sodium chloride. The layer was dried over magnesium sulfate, filtered and concentrated. The residue was dissolved in a mixed solvent of tetrahydrofuran (150 mL) and methanol (40 mL) and 1N aqueous solution of sodium hydroxide (50 mL) was added. The mixture was stirred at room temperature for 3 hours. The reaction mixture was concentrated, water (100 mL) was added and neutralized with 2N-hydrochloric acid and a saturated aqueous solution of sodium hydrogencarbonate. The mixture was extracted with ethyl acetate and the organic layer was washed with a saturated aqueous solution of sodium chloride. The layer was dried over magnesium sulfate, filtered and concentrated. The residue was purified by silica gel column chromatography (hexane-ethyl acetate, 2:1) to obtain 6.4 g of the title compound (19 mmol, yield 70%).

reactant | Benzoyl chloride | 53 mmol, 7.5 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | 2-(2-amino-4-pyridyl)-1-(3,5-dimethylphenyl)ethanone | 27 mmol, 6.4 g | NC1=NC=CC(=C1)CC(=O)C1=CC(=CC(=C1)C)C | C15H16N2O
reactant | water | 50 mL | O | H2O
catalyst | 4-dimethylaminopyridine | 8.3 mmol, 1.0 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | N,N-dimethylacetamide | 100 mL | CN(C(C)=O)C | C4H9NO
product | 2-(2-benzoylamino-4-pyridyl)-1-(3,5-dimethylphenyl)ethanone | 19 mmol, 6.4 g, yield 70% | C(C1=CC=CC=C1)(=O)NC1=NC=CC(=C1)CC(=O)C1=CC(=CC(=C1)C)C | C22H20N2O2
